* SPDX-License-Identifier: Apache-2.0
* Half-rate serializer integrated into the programmable CML TX output stage.
.subckt serializer_tx EVEN_P EVEN_N ODD_P ODD_N CLK_P CLK_N VBIAS
+ LOAD_EN0_N LOAD_EN1_N LOAD_EN2_N LOAD_EN3_N VDD VSS OUTP OUTN
XBASE_P VDD OUTP VSS ppolyf_u r_width=1u r_length=0.8u
XTRIM_P0 OUTP P0 VSS ppolyf_u r_width=1u r_length=0.8u
XTRIM_P1 OUTP P1 VSS ppolyf_u r_width=1u r_length=0.8u
XTRIM_P2 OUTP P2 VSS ppolyf_u r_width=1u r_length=0.8u
XTRIM_P3 OUTP P3 VSS ppolyf_u r_width=1u r_length=0.8u
XSW_P0 P0 LOAD_EN0_N VDD VDD pfet_03v3 w=20u l=0.28u m=5
XSW_P1 P1 LOAD_EN1_N VDD VDD pfet_03v3 w=20u l=0.28u m=5
XSW_P2 P2 LOAD_EN2_N VDD VDD pfet_03v3 w=20u l=0.28u m=5
XSW_P3 P3 LOAD_EN3_N VDD VDD pfet_03v3 w=20u l=0.28u m=5
XBASE_N VDD OUTN VSS ppolyf_u r_width=1u r_length=0.8u
XTRIM_N0 OUTN N0 VSS ppolyf_u r_width=1u r_length=0.8u
XTRIM_N1 OUTN N1 VSS ppolyf_u r_width=1u r_length=0.8u
XTRIM_N2 OUTN N2 VSS ppolyf_u r_width=1u r_length=0.8u
XTRIM_N3 OUTN N3 VSS ppolyf_u r_width=1u r_length=0.8u
XSW_N0 N0 LOAD_EN0_N VDD VDD pfet_03v3 w=20u l=0.28u m=5
XSW_N1 N1 LOAD_EN1_N VDD VDD pfet_03v3 w=20u l=0.28u m=5
XSW_N2 N2 LOAD_EN2_N VDD VDD pfet_03v3 w=20u l=0.28u m=5
XSW_N3 N3 LOAD_EN3_N VDD VDD pfet_03v3 w=20u l=0.28u m=5

XEVEN_P OUTP EVEN_P EVEN_SRC VSS nfet_03v3 w=20u l=0.28u m=5
XEVEN_N OUTN EVEN_N EVEN_SRC VSS nfet_03v3 w=20u l=0.28u m=5
XODD_P OUTP ODD_P ODD_SRC VSS nfet_03v3 w=20u l=0.28u m=5
XODD_N OUTN ODD_N ODD_SRC VSS nfet_03v3 w=20u l=0.28u m=5
XSELECT_E EVEN_SRC CLK_P TAIL VSS nfet_03v3 w=20u l=0.28u m=5
XSELECT_O ODD_SRC CLK_N TAIL VSS nfet_03v3 w=20u l=0.28u m=5
XTAIL TAIL VBIAS VSS VSS nfet_03v3 w=20u l=0.5u m=14
.ends serializer_tx
